US04902713
Preparation of 22,23-dihydroazadirachtin A.
40.8 mg. azadirachtin A (5.67×1031 5 mole) were dissolved in 4 ml. ethyl acetate and 20 mg. platinum dioxide dihydrate were added thereto. The mixture was stirred and hydrogen passed therethrough for 75 minutes, the course of the reaction being monitored by HPLC. After the disappearance of the azadirachtin A peak, the reaction was discontinued and the reaction mixture centrifuged. The supernatant solution was evaporated and purified on silicon dioxide thin layer chromatography plates using the elution agent chloroform/acetone (7:3 v/v); Rf 0.33. Yield: 28.2 mg. (69% of theory).

reactant | azadirachtin A | 5 mole | C/C=C(\C)/C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56[C@H]7C[C@@H]([C@@]5(O6)C)[C@]8(C=CO[C@H]8O7)O)(C(=O)OC)O)C(=O)OC)OC(=O)C | C35H44O16
reactant | hydrogen | [H][H] | H2
catalyst | platinum dioxide dihydrate | O.O.[Pt](=O)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 22,23-dihydroazadirachtin | C/C=C(\C)/C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56[C@@H]7C[C@H]([C@@]5(O6)C)[C@]8(CCO[C@@H]8O7)O)(C(=O)OC)O)C(=O)OC)OC(=O)C | C35H46O16
